US06936612B2
2,6-Dimethyl-4-(6-nitro-pyridin-3-yl)-morpholine (4.00 g, 16.86 mmol) was dissolved in THF (100 mL) to which Raney Nickel (3.10 g) was added. The reaction mixture was shaken under a hydrogen atmosphere (50 psi) for 4 hours. The catalyst was filtered and the solvent evaporated to give 5-(2,6-dimethyl-morpholin-4-yl)-pyridin-2-ylamine as a purple solid (3.05 g, 87.4%). 1H NMR δ (400 MHz, CDCl3) 7.74 (d, J=2.4 Hz, 1H), 7.16 (dd, J=2.9, 8.8 Hz, 1H), 6.49 (dd, J=0.7, 8.8 Hz, 1H), 3.79 (m, 2H), 2.34 (dd, J=10.5, 10.5, 2H), 1.22 (d, J=6.3 Hz, 6H).

reactant | 2,6-Dimethyl-4-(6-nitro-pyridin-3-yl)-morpholine | 16.86 mmol, 4.00 g | CC1CN(CC(O1)C)C=1C=NC(=CC1)[N+](=O)[O-] | C11H15N3O3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | Raney Nickel | 3.10 g | [Ni] | Ni
product | 5-(2,6-dimethyl-morpholin-4-yl)-pyridin-2-ylamine | 3.05 g, 87.4% | CC1CN(CC(O1)C)C=1C=CC(=NC1)N | C11H17N3O
